US08232288B2
Stage (i): Ethyl 2-(cyclopropylamino)acetate
Ethyl bromoacetate (1 eq.) was added slowly to an ice-cold solution of cyclopropylamine (17.5 mmol, 3 eq.) and K2CO3 (2 eq.) in DMF (25 ml) and the reaction mixture was then stirred at room temperature for 16 h. For working up, the mixture was diluted with an excess of water and extracted with 20% ethyl acetate/hexane solution. The organic phase was washed with water and sat. NaCl solution and dried over Na2SO4. After the solvent had been removed completely, the crude product was employed in the next stage without further purification. Yield: 52%

reactant | Ethyl bromoacetate | 1 eq. | BrCC(=O)OCC | C4H7BrO2
reactant | cyclopropylamine | 17.5 mmol, 3 eq. | C1(CC1)N | C3H7N
reactant | K2CO3 | 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-(cyclopropylamino)acetate | Yield: 52% | C1(CC1)NCC(=O)OCC | C7H13NO2
